US07582621B2
4.2.am 1-Hydroxy-5-[4-(tetrazole-1-yl)phenoxy]-2,1-benzoxaborole (C39)
A mixture of 5-(4-cyanophenoxy)-1-hydroxy-2,1-benzoxaborole (200 mg, 0.797 mmol), sodium azide (103 mg, 1.59 mmol), and ammonium chloride (85 mg, 1.6 mmol) in N,N-dimethylformamide (5 mL) was stirred at 80° C. for two days. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate) followed by trituration with ethyl acetate to give the target compound (55 mg, 23%).

reactant | 5-(4-cyanophenoxy)-1-hydroxy-2,1-benzoxaborole | 0.797 mmol, 200 mg | C(#N)C1=CC=C(OC=2C=CC3=C(COB3O)C2)C=C1 | C14H10BNO3
reactant | sodium azide | 1.59 mmol, 103 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.6 mmol, 85 mg | [Cl-].[NH4+]
reactant | Water | O | H2O
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-Hydroxy-5-[4-(tetrazole-1-yl)phenoxy]-2,1-benzoxaborole | 55 mg, 23% | OB1OCC2=C1C=CC(=C2)OC2=CC=C(C=C2)N2N=NN=C2 | C14H11BN4O3
